US06066658
Ethyl 4-chloro-5-formyl-6,7-dihydro-3-methylthiobenzo[c]thiophene-1-carboxylate (1.32 g), methyl α-mercaptophenyl acetate (0.76 g) and potassium carbonate (0.69 g) were added to N,N-dimethylformamide (15 ml). The mixture was stirred at room temperature for 2 hours. The reaction mixture was poured over water, and extracted with ethyl acetate. The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:5, v/v) to yield yellow powder. The powder was dissolved in ethanol (10 ml), to which an aqueous sodium hydroxide (0.10 g) in water (2 ml) was added. The obtained solution was stirred at 60° C. for 7 hours. To the reaction solution was added concentrated hydrochloric acid (1 drop). After the mixture was poured over water, it was extracted with ethyl acetate. The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with chloroform-methanol to yield 4,5-dihydro-8-methylthio-2-phenylbenzo[2,1-c:3,4-b']dithiophene-6-carboxylic acid, which was then recrystallized from ethyl acetate-hexane. Yellow prisms. Melting point 215-217° C.

reactant | Ethyl 4-chloro-5-formyl-6,7-dihydro-3-methylthiobenzo[c]thiophene-1-carboxylate | 1.32 g | ClC1=C(CCC2=C(SC(=C21)SC)C(=O)OCC)C=O | C13H13ClO3S2
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 0.10 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | hydrochloric acid | 1 drop | Cl | ClH
product | 4,5-dihydro-8-methylthio-2-phenylbenzo[2,1-c:3,4-b']dithiophene-6-carboxylic acid | CSC=1SC(=C2C1C=1SC(=CC1CC2)C2=CC=CC=C2)C(=O)O | C18H14O2S3
